US06525042B1
4-tert-Butoxycarbonyl-2-ethoxycarbonyl-1-[4-(3-pyridyl)benzoyl]piperazine
In a similar manner to Referential Example 12 except for the use of 4-(3-pyridyl)benzoic acid and 1-tert-butoxycarbonyl-3-ethoxycarbonylpiperazine as the raw materials, the reaction was conducted, whereby the title compound was obtained.

reactant | 4-(3-pyridyl)benzoic acid | N1=CC(=CC=C1)C1=CC=C(C(=O)O)C=C1 | C12H9NO2
reactant | 1-tert-butoxycarbonyl-3-ethoxycarbonylpiperazine | C(C)(C)(C)OC(=O)N1CC(NCC1)C(=O)OCC | C12H22N2O4
product | 4-tert-Butoxycarbonyl-2-ethoxycarbonyl-1-[4-(3-pyridyl)benzoyl]piperazine | C(C)(C)(C)OC(=O)N1CC(N(CC1)C(C1=CC=C(C=C1)C=1C=NC=CC1)=O)C(=O)OCC | C24H29N3O5
